US09302991B2
<Step-4>:(R)—N-(1-(3-(2,2-difluoroethoxy)-5-methylphenyl)ethyl)-2-methylpropane-2-sulfinamide (single diastereomer)
The title compound is prepared in 77% yield (0.97 g, colorless oil) from 1-(3-(2,2-difluoroethoxy)-5-methylphenyl)ethanone (0.85 g, 3.9 mmol, Step-3) and (R)-2-methylpropane-2-sulfinamide by the similar manner in Step-4 of Amine-1.

reactant | 1-(3-(2,2-difluoroethoxy)-5-methylphenyl)ethanone | 3.9 mmol, 0.85 g | FC(COC=1C=C(C=C(C1)C)C(C)=O)F | C11H12F2O2
reactant | (R)-2-methylpropane-2-sulfinamide | CC(C)(C)[S@@](=O)N | C4H11NOS
product | (R)—N-(1-(3-(2,2-difluoroethoxy)-5-methylphenyl)ethyl)-2-methylpropane-2-sulfinamide | 77% yield | FC(COC=1C=C(C=C(C1)C)C(C)N[S@](=O)C(C)(C)C)F | C15H23F2NO2S
